US04613685
830 g of 3-(1-methylcyclohexen-4-yl)-butyraldehyde were dissolved in 800 ml of liquid ammonia in a stirrer autoclave and hydrogenated under a hydrogen pressure of 100 bar over 50 g of Raney nickel iron at 90° C. After evaporation of the solvent, the product was filtered from the catalyst and distilled under vacuum. 720 g (86%) of 3-(1-methylcyclohexen-4-yl)-butylamine, bp.10 120° C., were obtained.

reactant | 3-(1-methylcyclohexen-4-yl)-butyraldehyde | 830 g | CC1=CCC(CC1)C(CC=O)C | C11H18O
reactant | hydrogen | [H][H] | H2
reactant | ammonia | N | H3N
product | 3-(1-methylcyclohexen-4-yl)-butylamine | 720 g, 86% | CC1=CCC(CC1)C(CCN)C | C11H21N
